US08445510B2
1-{4-[cis-4-(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexyl]piperazin-1-yl}ethanone
A mixture of 4-(4-{3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanone (12.0 mg, 0.0250 mmol), 1-acetylpiperazine (31.98 mg, 0.2495 mmol), sodium triacetoxyborohydride (10.58 mg, 0.04990 mmol) and 1,2-dichloroethane (3 mL, 40 mmol) was heated to 60° C. in a sealed tube for 6 h. The solution was extracted with DCM and sat. NaHCO3, and the organic layer was loaded onto silica gel for column chromatography, eluting with 3-7% (7N NH3 in MeOH)/DCM. The fractions containing the product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.63-1.73 (m, 3H), 1.81 (d, J=7.1 Hz, 3H), 2.00 (s, 3H), 2.10-2.14 (m, 4H), 2.25-2.43 (m, 4H), 2.58-2.66 (m, 4H), 3.59-3.70 (m, 8H), 4.34 (tdd, J=9.3, 9.3, 4.7, 4.3 Hz, 1H), 5.12 (q, J=6.8 Hz, 1H), 6.90 (dd, J=9.1, 4.3 Hz, 1H), 7.09 (t, J=8.8 Hz, 1H), 7.36 (d, J=1.0 Hz, 1H), 7.42 (s, 1H), 7.47 (s, 1H), 8.12 (s, 1H). MS (ES+): m/z=593.27/595.27 (100/50) [MH+]. HPLC: tR=1.19 min (polar—3 min, UPLC-ACQUITY).

reactant | 4-(4-{3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanone | 0.0250 mmol, 12.0 mg | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)C2CCC(CC2)=O | C26H26ClFN4O2
reactant | 1-acetylpiperazine | 0.2495 mmol, 31.98 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | sodium triacetoxyborohydride | 0.04990 mmol, 10.58 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | 40 mmol, 3 mL | ClCCCl | C2H4Cl2
product | 1-{4-[cis-4-(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexyl]piperazin-1-yl}ethanone | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)[C@H]2CC[C@H](CC2)N2CCN(CC2)C(C)=O | C32H38ClFN6O2
